** sch_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/ota_5t_sky130_tb.sch
**.subckt ota_5t_sky130_tb out
*.opin out
V1 Vinp 0 dc 0.9 ac 1 sin(0.9 0.005 5meg 0 0)
V2 Vinn 0 dc 0.9 sin(0.9 0.005 5meg 0 0 180)
V4 net1 0 1.8
x1 net1 out Vinp Vinn 0 ota_5t_sky130
**** begin user architecture code
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt


.control
save all
tran 1n 400n
write ota5t_tran.raw
op
print @m.x1.xm2.msky130_fd_pr__nfet_01v8[gds] @m.x1.xm4.msky130_fd_pr__pfet_01v8[gds]
write ota5t_op.raw
ac dec 20 1k 100meg
write ota5t_ac.raw
.endc

**** end user architecture code
**.ends

* expanding   symbol:  ota_5t_sky130.sym # of pins=5
** sym_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/ota_5t_sky130.sym
** sch_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/ota_5t_sky130.sch
.subckt ota_5t_sky130 VDD VOUT VINP VINN GND
*.ipin VINP
*.ipin VINN
*.opin VOUT
*.ipin VDD
*.ipin GND
XM5 V5 VDD net4 GND sky130_fd_pr__nfet_01v8 L=1.475 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM1 net1 VINP net2 GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM2 VOUT VINN net3 GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM3 net1 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1
XM4 VOUT net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1
XM6 VDD VDD GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
Vmeas net4 GND 0
.save i(vmeas)
Vmeas1 net2 V5 0
.save i(vmeas1)
Vmeas2 net3 V5 0
.save i(vmeas2)
.ends

.end
